US08912186B2
By a procedure similar to that of example 1.4, starting from 4-iodo-1,2-phenylenediamine and 3-(3-chlorophenyl)glutaric anhydride, 3-(3-chlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl was obtained as light beige solid.

reactant | 4-iodo-1,2-phenylenediamine | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(3-chlorophenyl)glutaric anhydride | ClC=1C=C(C=CC1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(3-chlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl | ClC=1C=C(C=CC1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)I.Cl | InChI=1S/C17H14ClIN2O2.ClH/c18-12-3-1-2-10(6-12)11(8-17(22)23)7-16-20-14-5-4-13(19)9-15(14)21-16;/h1-6,9,11H,7-8H2,(H,20,21)(H,22,23);1H
